US07176310B1
5. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid tert-butyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using tert-butyl alcohol (9.6 mg, 0.13 mmol) as the source alcohol. Chromatography (1:1 ethyl acetate:hexane) through SiO2 yielded 5 mg (8%) of the titled compound. ESI-MS m/z 348 (MH+), 346 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | tert-butyl alcohol | 0.13 mmol, 9.6 mg | C(C)(C)(C)O | C4H10O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid tert-butyl ester | 5 mg, 8% | C(C)(C)(C)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C17H18FN3O4
